US06444672B1
74a. N-[6-(azidomethyl)-1-isoquinolinyl]-benzamide
To 6.3 g of N-[6-(hydroxymethyl)-1-isoquinolinyl]benzamide (1 g) in 40 mL of toluene and 40 mL of dioxane at 0° C. 7.8 mL of diphenylphosphoryl azide (DDPA) and 5.4 mL of 1,8-diazabicyclo(5.4.0)undec-7ene (DBU) were added. After 24 hours the reaction mixture was poured into water (pH 7) and extracted with ethyl acetate. The organic layer was dried (sodium sulfate) and concentrated. Trituration with diethyl ether gave 6.4 g of the title compound. Mp. 125-129° C. MS (m/e)=303.

reactant | N-[6-(hydroxymethyl)-1-isoquinolinyl]benzamide | 6.3 g | OCC=1C=C2C=CN=C(C2=CC1)NC(C1=CC=CC=C1)=O | C17H14N2O2
reactant | diphenylphosphoryl azide | 7.8 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 1,8-diazabicyclo(5.4.0)undec-7ene | 5.4 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | water | pH 7 | O | H2O
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
solvent | dioxane | 40 mL | O1CCOCC1 | C4H8O2
product | N-[6-(azidomethyl)-1-isoquinolinyl]-benzamide | 6.4 g | N(=[N+]=[N-])CC=1C=C2C=CN=C(C2=CC1)NC(C1=CC=CC=C1)=O | C17H13N5O
